US06943183B2
3. [2-((S)-2-Imidazol-1-yl-1-phenyl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl]-carbamic acid tert-butyl ester
A round bottom flask was charged with (2-Hydroxy-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl)-carbamic acid tert-butyl ester (700 mg, 2.40 mmol), (R)-2-imidazol-1-yl-1-phenyl-ethanol (544 mg, 2.89 mmol), triphenylphospine (759 mg, 2.89 mmol) and dry THF (14 mL). After approximately 15 nm, diethylazodicarboxylate (0.46 mL, 2.89 mmol) was added slowly. The reaction was stirred overnight and concentrated to give a yellow oil. Purification by chromatography (10-20% acetone/CH2Cl2 then 5% MeOH/CH2Cl2) afforded the title compound as a white foam (0.850 g, 1.84 mmol, 77%). The structure was confirmed by NMR and mass spectrometry. MS m/z 462 (M++H).

reactant | (2-Hydroxy-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl)-carbamic acid tert-butyl ester | 2.40 mmol, 700 mg | C(C)(C)(C)OC(NCC1=C(C=CC=2C(CCCC12)=O)O)=O | C16H21NO4
reactant | (R)-2-imidazol-1-yl-1-phenyl-ethanol | 2.89 mmol, 544 mg | N1(C=NC=C1)C[C@H](O)C1=CC=CC=C1 | C11H12N2O
reactant | triphenylphospine | 2.89 mmol, 759 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 2.89 mmol, 0.46 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | [2-((S)-2-Imidazol-1-yl-1-phenyl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl]-carbamic acid tert-butyl ester | 1.84 mmol, 0.850 g, 77% | C(C)(C)(C)OC(NCC1=C(C=CC=2C(CCCC12)=O)O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O | C27H31N3O4
